US09340527B2
1-[2-(4-tert-Butyl-cyclohexyloxy)-quinoxalin-6-ylmethyl]-piperidine-4-carboxylic acid ethyl ester
6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoxaline (0.2879 g, 0.0007925 mol), potassium ((4-(ethoxycarbonyl)piperidin-1-yl)methyl)trifluoroborate (0.4392 g, 0.001585 mol), palladium acetate (0.01068 g, 4.755E-5 mol) 2-(Dicyclohexylphosphino)-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (0.06800 g, 0.0001426 mol) and cesium carbonate (0.7746 g, 0.002377 mol) were added to a capped 40 mL vial equipped with a magnetic stir bar. The vial was degassed and purged with argon. Tetrahydrofuran (7.713 mL, 0.09510 mol) and water (1.142 mL, 0.06340 mol) were added and the reaction mixture was degassed, purged with argon then stirred at 60° C. for 24 hours. An additional 1 eq. of potassium ((4-(ethoxycarbonyl)piperidin-1-yl)methyl)trifluoroborate; 0.03 eq. of palladium acetate; 0.09 eq. of 2-(dicyclohexylphosphino)-2′,4′,6′-tri-isopropyl-1,1′-biphenyl and 1.5 eq. of cesium carbonate were added. The mixture was degassed, flushed with argon and heated at 60° C. overnight. The mixture was cooled to room temperature, diluted with ethyl acetate and washed with water, then brine. The layers were separated and the organic layer was dried over MgSO4, filtered, concentrated under reduced pressure and purified by flash chromatography (24 g SiO2 column; 0-10% MeOH in methylene chloride) to give the title compound. ESI-MS (M+H+): 454.1

reactant | 6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoxaline | 0.0007925 mol, 0.2879 g | BrC=1C=C2N=CC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C18H23BrN2O
reactant | potassium ((4-(ethoxycarbonyl)piperidin-1-yl)methyl)trifluoroborate | 0.001585 mol, 0.4392 g | C(C)OC(=O)C1CCN(CC1)C[B-](F)(F)F.[K+]
reactant | cesium carbonate | 0.002377 mol, 0.7746 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Tetrahydrofuran | 0.09510 mol, 7.713 mL | O1CCCC1 | C4H8O
reactant | water | 0.06340 mol, 1.142 mL | O | H2O
reactant | potassium ((4-(ethoxycarbonyl)piperidin-1-yl)methyl)trifluoroborate | 1 eq. | C(C)OC(=O)C1CCN(CC1)C[B-](F)(F)F.[K+]
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 0.09 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 4.755E-5 mol, 0.01068 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.03 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[2-(4-tert-Butyl-cyclohexyloxy)-quinoxalin-6-ylmethyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CC=1C=C2N=CC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C27H39N3O3
